US06355641B1
A mixture 1H-pyrrole-1-carboxamidine hydrochloride (4.40 g, 30 mmol), N-tert-butoxycarbonyl piperazine (5.59 g, 30 mmol) and N,N-diisopropylethylamine (6.3 mL, 36 mmol) in 2-propanol (50 mL) was refluxed for 24 h, cooled to room temperature and the solvents were removed under reduced pressure. The residue was suspended in acetonitrile (50 mL) and filtered; the white precipitate was washed with acetonitrile (50 mL) and dried under vacuum to yield N-tert-butoxycarbonyl piperazine-1-carboxamidine (6.20 g).

reactant | 1H-pyrrole-1-carboxamidine hydrochloride | 30 mmol, 4.40 g | Cl.N1(C=CC=C1)C(=N)N
reactant | N-tert-butoxycarbonyl piperazine | 30 mmol, 5.59 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N,N-diisopropylethylamine | 36 mmol, 6.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
product | N-tert-butoxycarbonyl piperazine-1-carboxamidine | 6.20 g | C(C)(C)(C)OC(=O)NC(=N)N1CCNCC1 | C10H20N4O2
